US09315458B2
D) 1,5-anhydro-2-(6-(4-chlorobenzyl)-4,5-dimethyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,4-dideoxy-L-threo-pentitol
To a solution of methyl 5-(4-chlorobenzyl)-2-formyl-3,4-dimethylbenzoate (0.02 g) in THF (1.00 mL) was added (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol (8.14 mg), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, and the residue was diluted with methanol (1.00 mL). Sodium triacetoxyborohydride (0.02 g) was added thereto under argon atmosphere, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by reverse-phase HPLC. The fractions were combined, saturated aqueous sodium hydrogencarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (5.60 mg).

reactant | methyl 5-(4-chlorobenzyl)-2-formyl-3,4-dimethylbenzoate | 0.02 g | ClC1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)C)C)C=C1 | C18H17ClO3
reactant | (3S,4S)-3-aminotetrahydro-2H-pyran-4-ol | 8.14 mg | N[C@H]1COCC[C@@H]1O | C5H11NO2
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
product | 1,5-anhydro-2-(6-(4-chlorobenzyl)-4,5-dimethyl-1-oxo-1,3-dihydro-2H-isoindol-2-yl)-2,4-dideoxy-L-threo-pentitol | 5.60 mg | ClC1=CC=C(CC2=C(C(=C3CN(C(C3=C2)=O)[C@H]2COCC[C@@H]2O)C)C)C=C1 | C22H24ClNO3
